US07179830B2
k) 2-(2,4-Dichloro-3-thienylamino)-1H-thieno[3,4-d]imidazole hydrochloride
A solution of 108.4 mg of p-toluenesulfonyl chloride in 5 ml of anhydrous THF was added dropwise to a mixture prepared from a solution of 157 mg of N-(4-amino-3-thienyl)-N′-(2,4-dichlorothienyl)thiourea in 15 ml of THF and a solution of 51.08 mg of NaOH in 2 ml of water. The resulting dark solution was stirred at room temperature for 2 hours, the solvent was distilled off and the residue was admixed with water. After extraction with ethyl acetate, the organic phase was washed with water and dried over sodium sulfate. After the solvent had been distilled off, the residue was purified by column chromatography on silica gel using a mixture of 20 parts by volume of ethyl acetate, 10 parts by volume of n-heptane, 3 parts by volume of glacial acetic acid as an eluent, which was then distilled off under reduced pressure. A viscous amorphous product was obtained which was dissolved in ethyl acetate and made strongly acidic using hydrogen chloride gas-saturated diethyl ether. The crystallization of the amorphous hydrochloric acid salt was brought about by scratching. M.p.: >300° C.

reactant | p-toluenesulfonyl chloride | 108.4 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-(4-amino-3-thienyl)-N′-(2,4-dichlorothienyl)thiourea | 157 mg | NC=1C(=CSC1)NC(=S)NC1=C(SC=C1Cl)Cl | C9H7Cl2N3S3
reactant | NaOH | 51.08 mg | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-Dichloro-3-thienylamino)-1H-thieno[3,4-d]imidazole hydrochloride | Cl.ClC=1SC=C(C1NC1=NC=2C(N1)=CSC2)Cl | InChI=1S/C9H5Cl2N3S2.ClH/c10-4-1-16-8(11)7(4)14-9-12-5-2-15-3-6(5)13-9;/h1-3H,(H2,12,13,14);1H
